US07601743B2
Preparation of 2-(3-Chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid [2-(bicyclopropyl-1-ylcarbamoyl)-4-cyano-6-methyl-phenyl]-amide (A.1.1)
To a solution of 2-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-8-methyl-4-oxo-4H-benzo[d][1,3]oxazine-6-carbonitrile (1.2 g, 2,8 mmol) (prepared according to WO 04/067528) in tetrahydrofuran (40 ml), is added bicyclopropyl-1-ylamine hydrochloride (0.6 g, 4.2 mmol) and 1.2 ml (8.4 mmol) triethylamine, and the solution is heated at a temperature of 60° C. for 8 h. The solution is cooled down to ambient temperature and the solvent is evaporated. Then the mixture is triturated in 100 ml water and the crystals are washed with water and ether to afford 0.85 g of the title compound. The mother liquor is evaporated and a second crop of crystals is obtained by crystallisation in diisopropylether to afford 0.46 g of the title compound (F: 270-272° C.).

reactant | 2-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-8-methyl-4-oxo-4H-benzo[d][1,3]oxazine-6-carbonitrile | 2,8 mmol, 1.2 g | ClC=1C(=NC=CC1)N1N=C(C=C1C=1OC(C2=C(N1)C(=CC(=C2)C#N)C)=O)C(F)(F)F | C19H9ClF3N5O2
reactant | bicyclopropyl-1-ylamine hydrochloride | 4.2 mmol, 0.6 g | Cl.C1(CC1)(C1CC1)N
reactant | triethylamine | 8.4 mmol, 1.2 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-(3-Chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid [2-(bicyclopropyl-1-ylcarbamoyl)-4-cyano-6-methyl-phenyl]-amide | 0.85 g | C1(CC1)(C1CC1)NC(=O)C1=C(C(=CC(=C1)C#N)C)NC(=O)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl | C25H20ClF3N6O2
